US08247430B2
N-(3-Amino-5-chloro-phenyl)-2-dimethylamino-acetamide
To a solution of 5-chloro-benzene-1,3-diamine (3 g, 21 mmol) and dimethylamino-AcOH (2.2 g, 21 mmol) in CH2Cl2 (300 mL) was added EDC (5 g, 25 mmol), HOBt (2.9 g, 21 mmol), and DIEA (5 mL). The reaction mixture was stirred at RT overnight. Solvent was removed in vacuo and the residue was purified through flash chromatography on silica gel (0-8% MeOH in EtOAc) to give the desired compound.

reactant | 5-chloro-benzene-1,3-diamine | 21 mmol, 3 g | ClC=1C=C(C=C(C1)N)N | C6H7ClN2
reactant | EDC | 25 mmol, 5 g
reactant | HOBt | 21 mmol, 2.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Amino-5-chloro-phenyl)-2-dimethylamino-acetamide | NC=1C=C(C=C(C1)Cl)NC(CN(C)C)=O | C10H14ClN3O
